US06624159B2
N-Bromosuccinimide (3.52 g) is added to a solution of ethyl 4-hydroxy-6-methyl-8-nitro-3-quinolinecarboxylate (2.76 g) in 1,2 dichloroethane (250 mL). The refluxing solution is irradiated with a sun lamp (625 watt) for 20 min. The crude ethyl 6-bromomethyl-4-hydroxy-8-nitro-3-quinolinecarboxylate thus formed is reacted with morpholine (5 mL). After evaporation, the product is partitioned between ethyl acetate and water. Evaporation of the ethyl acetate gives a solid, which is dissolved in chloroform and is chromatographed on silica gel with 1% methanol/chloroform as the initial eluant. Elution of the column with 10% methanol/chloroform gives the title compound, which is crystallized from methanol. Physical characteristics: M.p. 214-216° C. 1H NMR (CDCl3) δ1.41, 2.50, 3.68, 3.74, 4.42, 8.69, 8.73, 8.78, 11.6. Anal. Found: C, 56.30; H, 5.32; N, 11.56.

reactant | N-Bromosuccinimide | 3.52 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 4-hydroxy-6-methyl-8-nitro-3-quinolinecarboxylate | 2.76 g | OC1=C(C=NC2=C(C=C(C=C12)C)[N+](=O)[O-])C(=O)OCC | C13H12N2O5
solvent | 1,2 dichloroethane | 250 mL | ClCCCl | C2H4Cl2
product | ethyl 6-bromomethyl-4-hydroxy-8-nitro-3-quinolinecarboxylate | BrCC=1C=C2C(=C(C=NC2=C(C1)[N+](=O)[O-])C(=O)OCC)O | C13H11BrN2O5
